US04342765
To a stirred solution of 2-guanidino-4-(3-aminocyclohexyl)thiazole (0.25 g.) in methanol (10 ml.) was added dimethyl (cyanoimido)dithiocarbonate (0.15 g.) and the mixture allowed to stand overnight. The residue, obtained on evaporation of methanol, was subjected to preparative thin layer chromatography on silica gel GF (Uniplate, Analtech Inc., Delaware, USA) using chloroform/methanol (90:10 v/v) for development. Isolation of the appropriate region of the chromatogram and elution with warm ethanol/chloroform (50:50 v/v) and crystallisation of the material extracted from methanol ether gave 2-guanidino-4-[3-(3-cyano-2-methylisothioureido)-cyclohexyl]thiazole, m.p. 216°-218° (decomp.).

reactant | 2-guanidino-4-(3-aminocyclohexyl)thiazole | 0.25 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)N | C10H17N5S
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 2-guanidino-4-[3-(3-cyano-2-methylisothioureido)-cyclohexyl]thiazole | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC(SC)=NC#N | C13H19N7S2
